US05171860
Step D 3-Amino-4-ethoxy-5-dimethylcarbamylisothiazole-1,1-dioxide
To a solution of 60% pure 3,4-diethoxy-5-dimethylcarbamylisothiazole-1,1-dioxide (1.3 g) from Part C in acetonitrile (7 ml), under nitrogen, was added hexamethyldisilizane (0.90%, 4.3 mmol). This solution was heated at 50° for four hours. The reaction was then quenched with methanol (0.5 ml) and the solvent evaporated. This residue was chromatographed on silica gel eluting with 40% methanol/chloroform and the collected product residue triturated with ether to give 0.61 g, of title compound (mp 221°-223°).

reactant | 3,4-diethoxy-5-dimethylcarbamylisothiazole-1,1-dioxide | 1.3 g | C(C)OC1=NS(C(=C1OCC)C(N(C)C)=O)(=O)=O | C10H16N2O5S
reactant | hexamethyldisilizane | 4.3 mmol | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
product | 3-Amino-4-ethoxy-5-dimethylcarbamylisothiazole-1,1-dioxide | NC1=NS(C(=C1OCC)C(N(C)C)=O)(=O)=O | C8H13N3O4S
